US07781454B2
Step 2: 3-methyl-1H-pyrazolo[3,4-b]pyridine (36-2)
A stirred solution of 1.10 g (7.91 mmol) of 1-(2-fluoropyridine-3-yl)ethanone in 5 mL of ethylene glycol under nitrogen was treated with 265 μL (8.31 mmol) of hydrazine. This solution was stirred for 2 hours at room temperature and then heated at 165° C. for 1.5 hours. The solution was cooled to room temperature, poured into CH2Cl2 (25 mL), and extracted with H2O (2×50 mL). The organic portions were combined, dried (MgSO4), filtered and concentrated in vacuo to give the title product as a fluffy off-white solid. 1H NMR (CDCl3): δ 2.61 (s, 3H), 7.14 (m, 1H), 8.06 (dd, 1H), 8.58 (dd, 1H), 11.18 (br s, 1H).

reactant | 1-(2-fluoropyridine-3-yl)ethanone | 7.91 mmol, 1.10 g | FC1=NC=CC=C1C(C)=O | C7H6FNO
reactant | hydrazine | 8.31 mmol, 265 μL | NN | H4N2
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol | 5 mL | C(CO)O | C2H6O2
product | 3-methyl-1H-pyrazolo[3,4-b]pyridine | CC1=NNC2=NC=CC=C21 | C7H7N3
